US06194406B1
1-(2-Methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-Yl)ethyl)-3-phenylpyrrolidine
Combine 1-(2-methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoyl)-3-(2-methanesulfonyloxyethyl)-3-phenylpyrrolidine (0.44 g, 0.81 mmol), triethylamine (0.33 g, 3.23 mmol), and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.44 g, 8.1 mmol) in acetonitrile (10 mL). Heat to reflux. After 12 hours, cool the reaction mixture, dilute with dichloromethane, and extract with water. Dry the organic layer over MgSO4, filter, and evaporate in uacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% methanol/dichloromethane to give the title compound.

reactant | 1-(2-methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoyl)-3-(2-methanesulfonyloxyethyl)-3-phenylpyrrolidine | 0.81 mmol, 0.44 g | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCOS(=O)(=O)C)C=C(C=C1)N1N=NN=C1S(=O)(=O)C | C23H27N5O7S2
reactant | triethylamine | 3.23 mmol, 0.33 g | C(C)N(CC)CC | C6H15N
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 8.1 mmol, 0.44 g | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | methanol dichloromethane | CO.ClCCl
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-Methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-Yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)N1N=NN=C1S(=O)(=O)C | C38H47N9O5S
